US06747023B1
Ethyl 2,5-dihydro-5-oxo-3-(pyridin-4-yl)-1,2,4-triazine-6-carboxylate
In ethanol (20 ml), 4-pyridinecarboxyamidrazone (1.48 g) was dissolved. To the resulting solution, diethyl ketomalonate (1.65 ml) was added dropwise at room temperature, followed by stirring for 13 hours. After heating under reflux for 4 hours, the reaction mixture was cooled. Yellow crystals thus precipitated were collected by filtration and dried, whereby the title compound (1.50 g, 56%) was obtained.

reactant | 4-pyridinecarboxyamidrazone | 1.48 g | C1=CN=CC=C1C(=NN)N | C6H8N4
reactant | diethyl ketomalonate | 1.65 ml | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2,5-dihydro-5-oxo-3-(pyridin-4-yl)-1,2,4-triazine-6-carboxylate | 1.50 g, 56% | O=C1N=C(NN=C1C(=O)OCC)C1=CC=NC=C1 | C11H10N4O3
